US07034039B2
Tert-butyl[4-butoxy-2-isobutyl-1-oxo-6-(1H-pyrrol-1-yl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.23 g, 0.5 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml) and the mixture was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure and the obtained crystals were recrystallized from methanol-diethyl ether to give 3-(aminomethyl)-4-butoxy-2-isobutyl-6-(1H-pyrrol-1-yl)-1(2H)-isoquinolinone dihydrochloride (0.19 g, 95.0%) as crystals.

reactant | Tert-butyl[4-butoxy-2-isobutyl-1-oxo-6-(1H-pyrrol-1-yl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.5 mmol, 0.23 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)N1C=CC=C1)=O)CC(C)C)=O | C27H37N3O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-4-butoxy-2-isobutyl-6-(1H-pyrrol-1-yl)-1(2H)-isoquinolinone dihydrochloride | 0.19 g, 95.0% | Cl.Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)N1C=CC=C1)=O)CC(C)C | InChI=1S/C22H29N3O2.2ClH/c1-4-5-12-27-21-19-13-17(24-10-6-7-11-24)8-9-18(19)22(26)25(15-16(2)3)20(21)14-23;;/h6-11,13,16H,4-5,12,14-15,23H2,1-3H3;2*1H
